US07820683B2
(2R)—N-(2-hydroxyethyl)-N-methyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.43 mmol) was reacted with 2-(methylamino)ethanol (0.35 ml, 4.3 mmol) to give the title compound as a solid (160 mg, 73%), except that the mixture was heated at 45° C. for 20 hours and purified by chromatography on silica gel (eluant: 3% methanol in DCM). NMR Spectrum (2 rotamers) 1.60 (m, 3H), 3.18 and 2.93 (s, 3H), 3.65-3.40 (m, 4H), 5.00 and 4.73 (t, 1H), 5.79 (s, 2H), 5.90 and 5.81 (q, 1H), 7.35-7.30 (m, 2H), 7.51 (s, 1H), 7.85-7.70 (m, 3H), 8.11 (s, 1H), 8.51 (m, 2H), 9.04 (s, 1H), 11.09 (br s, 1H); Mass spectrum MH+ 504.

reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.43 mmol, 200 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
reactant | 2-(methylamino)ethanol | 4.3 mmol, 0.35 ml | CNCCO | C3H9NO
product | (2R)—N-(2-hydroxyethyl)-N-methyl-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 160 mg, 73% | OCCN(C([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1N=CSC1)=O)C | C25H25N7O3S
